US20010044436A1
Reaction of tert-butyl 4-(2,4-dichlorophenyl)-2-(methylsulfonyl)-5,6,7,8-tetrahydropyridino[4,3-d]pyrimidine-6-carboxylate and 2-(2-aminoethylamino)-5-nitropyridine gave tert-butyl 4-(2,4-dichlorophenyl)-2-({2-[(5-nitro(2-pyridyl))-amino]ethyl}amino)-5,6,7,8-tetrahydropyridino[4,3-d]pyrimidine-6-carboxylate.

reactant | tert-butyl 4-(2,4-dichlorophenyl)-2-(methylsulfonyl)-5,6,7,8-tetrahydropyridino[4,3-d]pyrimidine-6-carboxylate | ClC1=C(C=CC(=C1)Cl)C=1C2=C(N=C(N1)S(=O)(=O)C)CCN(C2)C(=O)OC(C)(C)C | C19H21Cl2N3O4S
reactant | 2-(2-aminoethylamino)-5-nitropyridine | NCCNC1=NC=C(C=C1)[N+](=O)[O-] | C7H10N4O2
product | tert-butyl 4-(2,4-dichlorophenyl)-2-({2-[(5-nitro(2-pyridyl))-amino]ethyl}amino)-5,6,7,8-tetrahydropyridino[4,3-d]pyrimidine-6-carboxylate | ClC1=C(C=CC(=C1)Cl)C=1C2=C(N=C(N1)NCCNC1=NC=C(C=C1)[N+](=O)[O-])CCN(C2)C(=O)OC(C)(C)C | C25H27Cl2N7O4
